US07977344B2
2-{[(1S)-1-Methylbutyl]oxy}-8-(methyloxy)-9-[2-(tetrahydro-2-furanyl)ethyl]-9H-purin-6-amine
Prepared similarly to Intermediate 243 from 2-{[(1S)-1-methylbutyl]oxy}-8-(methyloxy)-1H-purin-6-amine trifluoroacetate and 2-(2-bromoethyl)tetrahydrofuran.

reactant | 2-{[(1S)-1-methylbutyl]oxy}-8-(methyloxy)-1H-purin-6-amine trifluoroacetate | FC(C(=O)O)(F)F.C[C@@H](CCC)OC=1NC(=C2N=C(N=C2N1)OC)N
reactant | 2-(2-bromoethyl)tetrahydrofuran | BrCCC1OCCC1 | C6H11BrO
product | 2-{[(1S)-1-Methylbutyl]oxy}-8-(methyloxy)-9-[2-(tetrahydro-2-furanyl)ethyl]-9H-purin-6-amine | C[C@@H](CCC)OC1=NC(=C2N=C(N(C2=N1)CCC1OCCC1)OC)N | C17H27N5O3
